US07173135B2
Using an analogous procedure to that described in the portion of Example 1 that is concerned with the preparation of starting materials, 4-chloro-3-cyano-6,7-dimethoxyquinoline (1.74 g) was reacted with 6-chloro-4-iodo-2,3-methylenedioxyaniline (2.5 g) to give 4-(6-chloro-4-iodo-2,3-methylenedioxyanilino)-3-cyano-6,7-dimethoxyquinoline as a solid (2.59 g) which gave the following characterising data; NMR Spectrum: (DMSOd6) 4.0 (s, 6H), 6.18 (s, 2H), 7.38 (s, 1H), 7.48 (s, 1H), 7.88 (s, 1H), 8.44 (s, 1H), 9.45 (s, 1H); Mass Spectrum: M+H+ 510.

reactant | 4-chloro-3-cyano-6,7-dimethoxyquinoline | 1.74 g | ClC1=C(C=NC2=CC(=C(C=C12)OC)OC)C#N | C12H9ClN2O2
reactant | 6-chloro-4-iodo-2,3-methylenedioxyaniline | 2.5 g | ClC1=CC(=C2C(=C1N)OCO2)I | C7H5ClINO2
product | 4-(6-chloro-4-iodo-2,3-methylenedioxyanilino)-3-cyano-6,7-dimethoxyquinoline | 2.59 g | ClC1=CC(=C2C(=C1NC1=C(C=NC3=CC(=C(C=C13)OC)OC)C#N)OCO2)I | C19H13ClIN3O4
